US04155913
1 g (0.00327 mol) of 7-chloro-1,3-dihydro-5-(o-nitrophenyl)-2H-thieno[2,3-e]-1,4-diazepin-2-one are heated to reflux with 0.8 g of phosphorus pentasulphide in 30 ml of absolute pyridine, nitrogen being conducted through the solution. The mixture is separated on a column (φ3 cm) filled with 50 g of Silica gel[(0.05 to 0.2 mm) (Merck)] (the product travelling on the front and the impurities travelling only slowly). After concentration of the pyridine solution under a vacuum, the residue is treated with methylene chloride and brought to crystallization. After completion of the crystallization in a refrigerator, the mixture is filtered under a vacuum and washed with a small amount of ice-cold methylene chloride. Recrystallization from absolute methanol yields 7-chloro-1,3-dihydro-5-(o-nitrophenyl)-2H-thieno[2,3-e]-1,4-diazepine-2-thione in the form of yellow crystals, melting point 213°-215° C.

reactant | 7-chloro-1,3-dihydro-5-(o-nitrophenyl)-2H-thieno[2,3-e]-1,4-diazepin-2-one | 0.00327 mol, 1 g | ClC1=CC2=C(NC(CN=C2C2=C(C=CC=C2)[N+](=O)[O-])=O)S1 | C13H8ClN3O3S
reactant | phosphorus pentasulphide | 0.8 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 7-chloro-1,3-dihydro-5-(o-nitrophenyl)-2H-thieno[2,3-e]-1,4-diazepine-2-thione | ClC1=CC2=C(NC(CN=C2C2=C(C=CC=C2)[N+](=O)[O-])=S)S1 | C13H8ClN3O2S2
